US05358955
{[1-(3-[2-Naphthylmethoxy]phenyl)-4-phenylbutyl]oximino}acetic acid N-hydroxy-N-methyl-amide
To a solution of DMF (0.5 mL) in methylene chloride (3 mL) at -30° to -20° C. was added oxalyl chloride (0.026 mL, 0.3 mmol) in methylene chloride (1 mL) dropwise. After 20 minutes, a solution of {[1-(3-[2-naphthylmethoxy]phenyl)-4-phenylbutyl]oximino}acetic acid (91 mg, 0.2 mmol) and triethylamine (0.03 mL, 0.2 mmol) in methylene chloride (5 mL) was added dropwise, and the mixture was stirred at -20° C. for 20 minutes. Then a solution of N-methylhydroxylamine hydrochloride (42 mg, 0.5 mmol), triethylamine (0.07 mL, 0.5 mmol) and pyridine (0.04 mL, 0.5 mmol) in chloroform (5 mL) was added. Upon completion of addition the mixture was allowed to warm to ambient temperature, stirred for 4 hours and then diluted with ethyl acetate (50 mL). The resulting mixture was washed with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was chromatographed on silica gel eluting with 1:1 methylene chloride-ethyl acetate to afford 70 mg of the title compound. 1H NMR (DMSO-d6, 300 MHz) δ 1.8 (m, 2H), 2.61 (t, J=7Hz, 2H), 2.77 (t, J=7Hz, 2H), 3.1 (s, 3H), 4.9 (s, 2H), 5.3 (s,2H), 7.2 (m, 9H), 7.53 (dd, J=6Hz, 4Hz, 2H), 7.6 (dd, J=8Hz, 2Hz, 1H), 7.96 (m, 4H), 9.9 (s,1H). IR (CDCl3): 3640, 3520, 3220, 1640,1600 cm-1. MS (DCI/NH3) m/e 483 (M+H)+, 500 (M+H+NH3)+. Analysis calcd for C30H30N2O4 ·0.5 H2O: C,73.30; H, 6.36; N, 5.70. Found: C, 73.24; H, 5.89; N. 5.39.

reactant | oxalyl chloride | 0.3 mmol, 0.026 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | {[1-(3-[2-naphthylmethoxy]phenyl)-4-phenylbutyl]oximino}acetic acid | 0.2 mmol, 91 mg | C1=C(C=CC2=CC=CC=C12)COC=1C=C(C=CC1)C(CCCC1=CC=CC=C1)ON=CC(=O)O | C29H27NO4
reactant | triethylamine | 0.2 mmol, 0.03 mL | C(C)N(CC)CC | C6H15N
reactant | N-methylhydroxylamine hydrochloride | 0.5 mmol, 42 mg | Cl.CNO
reactant | triethylamine | 0.5 mmol, 0.07 mL | C(C)N(CC)CC | C6H15N
reactant | pyridine | 0.5 mmol, 0.04 mL | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | {[1-(3-[2-Naphthylmethoxy]phenyl)-4-phenylbutyl]oximino}acetic acid N-hydroxy-N-methyl-amide | 70 mg | ON(C(C=NOC(CCCC1=CC=CC=C1)C1=CC(=CC=C1)OCC1=CC2=CC=CC=C2C=C1)=O)C | C30H30N2O4
